US06881736B1
(c) 2-(4-Benzyloxyphenyl)-1-(pyridin-3-yl)ethanone
A solution of TBAF in THF (1.0 M, 2.2 mL, 2.2 mmole) was added dropwise to a solution of (±)-3-(4-benzyloxyphenyl)-2-(ter-butyldimethylsilyloxy)-2-(pyridin-3-yl)propionitrile (769 mg, 1.73 mmole) in dry THF (10 mL) at −15° C. After 30 min, the reaction was partitioned between EtOAc and H2O. The layers were separated and the organic layer was washed with H2O, dried (MgSO4), filtered through a plug of silica gel, and concentrated to afford impure title compound (492 mg, 94%) as a yellow solid: MS (ES) m/e 304 (M+H)+. This material was used without further purification.

reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | (±)-3-(4-benzyloxyphenyl)-2-(ter-butyldimethylsilyloxy)-2-(pyridin-3-yl)propionitrile | 1.73 mmole, 769 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C#N)(C=1C=NC=CC1)O[Si](C)(C)C(C)(C)C | C27H32N2O2Si
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2.2 mmole, 1.0 M, 2.2 mL | C1CCOC1 | C4H8O
product | 2-(4-Benzyloxyphenyl)-1-(pyridin-3-yl)ethanone | 492 mg, 94% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)C=1C=NC=CC1 | C20H17NO2
